US05510353
5-Hydroxy-indole-3-carboxaldehyde amino(N-cyclohexylureido)methylenehydrazone
To a solution of 0.8 g 5-hydroxy-indole-3-carboxaldehyde diaminomethylenehydrazone (3.7 mmol) in 20 ml DMF is added over 5 min. at 0° a solution of 0.5 ml cyclohexyl isocyanate (4.0 mmol) in 5 ml DMF. The solution is stirred for 4 hours. The solvent is then evaporated and the residue chromatographied (eluant: Toluene/EtOH/NH3 85:15:0.5) to yield the title compound as crystals. M.p.=135° (foaming).

reactant | 5-hydroxy-indole-3-carboxaldehyde diaminomethylenehydrazone | 3.7 mmol, 0.8 g | NC(N)=NN=CC1=CNC2=CC=C(C=C12)O | C10H11N5O
reactant | cyclohexyl isocyanate | 4.0 mmol, 0.5 ml | C1(CCCCC1)N=C=O | C7H11NO
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-Hydroxy-indole-3-carboxaldehyde amino(N-cyclohexylureido)methylenehydrazone | NC(N(C(=O)N)C1CCCCC1)=NN=CC1=CNC2=CC=C(C=C12)O | C17H22N6O2
